US07572808B2
A. Preparation of 4-(4-chlorophenyl)-6-methylpyridin-2(1H)-one
A suspension of (E)-4-(4-chlorophenyl)but-3-en-2-one (5.42 g, 30 mmol, Aldrich Chemical Co.), 1-(2-ethoxy-2-oxoethyl)pyridinium chloride (6.05 g, 30 mmol) (prepared according to the procedure described in WO 94/04502) and ammonium acetate (46.3 g, 0.6 mol) in ethanol (150 mL) was stirred at room temperature for 15 min, then at reflux for 4 h. The reaction mixture was allowed to cool and stand at room temperature overnight. The resulting precipitate was collected by filtration, and the collected solid was washed with ethanol, then water, and dried in a vacuum oven at 45° C. for 16 h to afford 3.1 g (47%) of the title compound as an off-white solid. HPLC/MS: retention time=2.86 min, [M+H]+=220.3.

reactant | (E)-4-(4-chlorophenyl)but-3-en-2-one | 30 mmol, 5.42 g | ClC1=CC=C(C=C1)/C=C/C(C)=O | C10H9ClO
reactant | 1-(2-ethoxy-2-oxoethyl)pyridinium chloride | 30 mmol, 6.05 g | [Cl-].C(C)OC(C[N+]1=CC=CC=C1)=O
reactant | ammonium acetate | 0.6 mol, 46.3 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 4-(4-chlorophenyl)-6-methylpyridin-2(1H)-one | 3.1 g, 47% | ClC1=CC=C(C=C1)C1=CC(NC(=C1)C)=O | C12H10ClNO
